US04356104
A mixture of 2-n-pentylpropane-1,3diol (8 g, 0.054 m), 4-carboxybenzaldehyde (8 g, 0.053 m), benzene (200 ml) and a catalytic amount of 4-toluenesulfonic acid was azeotropically refluxed until no more water was collected. The cold reaction mixture was washed with saturated NaHCO3 solution and water and then dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was crystallized from ethanol to yield 4-(5-n-pentyl-1,3-dioxan-2-yl) benzoic acid (12 g, 80%)

reactant | 2-n-pentylpropane-1,3diol | 8 g | C(CCCC)C(CO)CO | C8H18O2
reactant | 4-carboxybenzaldehyde | 8 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | 4-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 4-(5-n-pentyl-1,3-dioxan-2-yl) benzoic acid | 12 g, 80% | C(CCCC)C1COC(OC1)C1=CC=C(C(=O)O)C=C1 | C16H22O4
